US04226876
2-(2,3-Dimethylanilinomethyl)-2-imidazoline (4.20 g; 0.024 moles) was stirred in methylene chloride (90 ml), cooled to 0° C. and a solution of 4-chlorophenyl isocyanate (3.66 g; 0.024 moles) in methylene chloride (10 ml) was then added dropwise. A white precipitate formed rapidly. Stirring was continued for 2 to 3 hours after the addition at 0° C., the reaction mixture then allowed to reach ambient temperature and stirring was continued overnight. The reaction mixture was then evaporated to dryness under reduced pressure and the solid residue so obtained recrystallised from propan-2-ol to yield white crystals of 1-(N-(4-chlorophenyl)-carbamoyl)-2-(2,3-dimethylanilinomethyl)-2-imidazoline m.p. 153°-155° C.

reactant | 2-(2,3-Dimethylanilinomethyl)-2-imidazoline | 0.024 moles, 4.20 g | CC1=C(NCC=2NCCN2)C=CC=C1C | C12H17N3
reactant | 4-chlorophenyl isocyanate | 0.024 moles, 3.66 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-(4-chlorophenyl)-carbamoyl)-2-(2,3-dimethylanilinomethyl)-2-imidazoline | ClC1=CC=C(C=C1)NC(=O)N1C(=NCC1)CNC1=C(C(=CC=C1)C)C | C19H21ClN4O
